US09227986B2
Synthesis of bis(4-chlorophenyl)amine (77)
Under air, a 500-mL rbf was charged with (4-chlorophenyl)boronic acid (15.0 g, 96.0 mmol, 1 eq.), NH2OH.HCl (8.0 g, 115 mmol, 1.2 eq.), CuBr (2.75 g, 19.18 mmol, 0.2 eq.), K2CO3 (19.89 g, 144.0 mmol, 1.5 eq.), and CH3CN (320 mL). The reaction mixture was stirred at 70° C. for 24 h. The completion of the reaction was monitored by TLC. The solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography on a silica gel using 10%-20% EtOAc in hexanes to give the product as brown oil that solidifies when dried under vacuum.

reactant | (4-chlorophenyl)boronic acid | 96.0 mmol, 15.0 g, 1 eq. | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | NH2OH.HCl | 115 mmol, 8.0 g, 1.2 eq. | NO.Cl
reactant | K2CO3 | 144.0 mmol, 19.89 g, 1.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3CN | 320 mL | CC#N | C2H3N
product | bis(4-chlorophenyl)amine | ClC1=CC=C(C=C1)NC1=CC=C(C=C1)Cl | C12H9Cl2N
